US08349851B2
3-nitro-1H-pyrazole-5-carboxamide (3.0 g, 19.2 mmol) in pyridine (30 mL) was treated with phosphorus oxychloride (5.9 g) and the resultant solution was stirred for 3 h at rt. The reaction mixture was diluted with ice, then extracted with DCM (100 mL), dried over sodium sulfate, filtered and concentrated under reduced pressure to afford the crude 3-nitro-1H-pyrazole-5-carbonitrile, which was used directly in the next step without further purification. LC-MS (ESI) m/z 137 (M−H)−.

reactant | 3-nitro-1H-pyrazole-5-carboxamide | 19.2 mmol, 3.0 g | [N+](=O)([O-])C1=NNC(=C1)C(=O)N | C4H4N4O3
reactant | phosphorus oxychloride | 5.9 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
product | 3-nitro-1H-pyrazole-5-carbonitrile | [N+](=O)([O-])C1=NNC(=C1)C#N | C4H2N4O2
